US08633173B2
A suspension of (4-bromomethylphenyl)boronic acid (2.00 g, 9.31 mmol), thiomorpholine 1,1-dioxide (1.50 g, 11.1 mmol) and potassium carbonate (2.60 g, 18.8 mmol) in acetone (25 mL, 340 mmol) was heated at 40° C. for 18 hours then cooled to room temperature. The volatiles were evaporated and the residue was suspended in saturated aqueous ammonium chloride (100 mL). The aqueous was decanted from the waxy solid and the solid was dissolved in methanol (50 mL), filtered to remove insoluble salts and evaporated. 4-[(4-boronophenyl)methyl]-thiomorpholine 1,1-dioxide was isolated as a tan foam. The crude material was used without further purification.

reactant | (4-bromomethylphenyl)boronic acid | 9.31 mmol, 2.00 g | BrCC1=CC=C(C=C1)B(O)O | C7H8BBrO2
reactant | thiomorpholine 1,1-dioxide | 11.1 mmol, 1.50 g | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | potassium carbonate | 18.8 mmol, 2.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 340 mmol, 25 mL | CC(=O)C | C3H6O
product | 4-[(4-boronophenyl)methyl]-thiomorpholine 1,1-dioxide | B(O)(O)C1=CC=C(C=C1)CN1CCS(CC1)(=O)=O | C11H16BNO4S
